US07112590B2
(2S)-N-(2-amino-1,3-benzothiazol-6-yl)-2-pyrrolidinecarboxamide dihydrochloride
HCl gas was bubbled for 50 minutes through a solution of tert-butyl (2S)-2-{[(2-amino-1,3-benzothiazol-6-yl)amino]carbonyl}-1-pyrrolidinecarboxylate (2.21 g, 6.1 mmol) in 6 mL of anhydrous acetic acid at room temperature. Acetic acid was evaporated under reduced pressure and the residue was triturated several times with diethyl ether and dried above NaOH to yield 1.35 g (54%) of the title compound as brownish solid.

reactant | HCl | Cl | ClH
reactant | tert-butyl (2S)-2-{[(2-amino-1,3-benzothiazol-6-yl)amino]carbonyl}-1-pyrrolidinecarboxylate | 6.1 mmol, 2.21 g | NC=1SC2=C(N1)C=CC(=C2)NC(=O)[C@H]2N(CCC2)C(=O)OC(C)(C)C | C17H22N4O3S
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | (2S)-N-(2-amino-1,3-benzothiazol-6-yl)-2-pyrrolidinecarboxamide dihydrochloride | 1.35 g, 54% | Cl.Cl.NC=1SC2=C(N1)C=CC(=C2)NC(=O)[C@H]2NCCC2 | InChI=1S/C12H14N4OS.2ClH/c13-12-16-8-4-3-7(6-10(8)18-12)15-11(17)9-2-1-5-14-9;;/h3-4,6,9,14H,1-2,5H2,(H2,13,16)(H,15,17);2*1H/t9-;;/m0../s1
